US08242129B2
4-(6-(4-Hydroxy-3-methylphenyl)-2-oxo-2,3-dihydropyrimidin-4-yl)benzoic acid
(E)-4-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid (14.7 g, 52.1 mmol) and urea (15.6 g, 0.26 mol) were suspended in 200 mL of 4N HCl solution in dioxane, and the reaction mixture was heated to reflux overnight, then cooled to room temperature. The resulted mixture was concentrated in vacuo to remove dioxane. The residues were suspended in 20 mL of methanol, filtered, washed with 50 mL of water, and dried in the air. 8.3 g (51%) of a yellowish powder was obtained.

reactant | (E)-4-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid | 52.1 mmol, 14.7 g | OC1=C(C=C(C=C1)C(/C=C/C1=CC=C(C(=O)O)C=C1)=O)C | C17H14O4
reactant | urea | 0.26 mol, 15.6 g | NC(=O)N | CH4N2O
solvent | HCl | 4N, 200 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(6-(4-Hydroxy-3-methylphenyl)-2-oxo-2,3-dihydropyrimidin-4-yl)benzoic acid | 8.3 g, 51% | OC1=C(C=C(C=C1)C=1C=C(NC(N1)=O)C1=CC=C(C(=O)O)C=C1)C | C18H14N2O4
